* Created by KLayout
*** My special header ***

* cell CM_NMOS_base
* pin L_D_G
* pin L_U_G
* pin R_D_G
* pin R_U_G
* pin T_D
* pin VSS
.SUBCKT CM_NMOS_base L_D_G L_U_G R_D_G R_U_G T_D VSS
* device instance $1 r0 *1 -148.8,-76.4 NMOS
XM$1 T_D L_U_G \$3 VSS NMOS L=8u W=84u AS=144.2p AD=144.2p PS=139.2u PD=139.2u
* device instance $2 r0 *1 -137.8,-76.4 NMOS
XM$2 \$3 L_D_G VSS VSS NMOS L=8u W=84u AS=126p AD=126p PS=120u PD=120u
* device instance $3 r0 *1 -126.8,-76.4 NMOS
XM$3 VSS R_D_G R_D_G VSS NMOS L=8u W=84u AS=126p AD=126p PS=120u PD=120u
* device instance $4 r0 *1 -115.8,-76.4 NMOS
XM$4 R_D_G R_U_G R_U_G VSS NMOS L=8u W=84u AS=126p AD=126p PS=120u PD=120u
.ENDS CM_NMOS_base
