* Created by KLayout
*** My special header ***

* cell CM_PMOS_base
* pin L_D
* pin R_D
* pin VDD
.SUBCKT CM_PMOS_base L_D R_D VDD
* device instance $1 r0 *1 -148.8,-238.7 PMOS
XM$1 L_D \$3 \$2 VDD PMOS L=8u W=240u AS=412p AD=412p PS=321.2u PD=321.2u
* device instance $2 r0 *1 -137.8,-238.7 PMOS
XM$2 \$2 \$2 VDD VDD PMOS L=8u W=240u AS=360p AD=360p PS=276u PD=276u
* device instance $3 r0 *1 -126.8,-238.7 PMOS
XM$3 VDD \$2 \$10 VDD PMOS L=8u W=240u AS=360p AD=360p PS=276u PD=276u
* device instance $4 r0 *1 -115.8,-238.7 PMOS
XM$4 \$10 \$3 R_D VDD PMOS L=8u W=240u AS=360p AD=360p PS=276u PD=276u
.ENDS CM_PMOS_base
