* Created by KLayout
*** My special header ***

* cell OPAMP_NMOS_single
* pin CCOUT
* pin L_D_G,VB1
* pin L_U_G,VB2
* pin OUT1
* pin T_D,iB1
* pin VIN_N
* pin VIN_P
* pin VOUT
* pin VSS
.SUBCKT OPAMP_NMOS_single CCOUT L_D_G|VB1 L_U_G|VB2 OUT1 T_D|iB1 VIN_N VIN_P
+ VOUT VSS
* device instance $1 r0 *1 -973.8,-214.7 NMOS
XM$1 VSS VSS OUT1 VSS NMOS L=8u W=168u AS=361.2p AD=252p PS=269.2u PD=180u
* device instance $2 r0 *1 -962.8,-214.7 NMOS
XM$2 OUT1 \$6 CCOUT VSS NMOS L=8u W=168u AS=252p AD=252p PS=180u PD=180u
* device instance $5 r0 *1 -929.8,-214.7 NMOS
XM$5 VSS OUT1 VOUT VSS NMOS L=8u W=1680u AS=2520p AD=2520p PS=1800u PD=1800u
* device instance $25 r0 *1 -709.8,-214.7 NMOS
XM$25 VSS \$1 \$1 VSS NMOS L=8u W=168u AS=252p AD=252p PS=180u PD=180u
* device instance $26 r0 *1 -698.8,-214.7 NMOS
XM$26 \$1 \$6 \$6 VSS NMOS L=8u W=168u AS=252p AD=252p PS=180u PD=180u
* device instance $29 r0 *1 -665.8,-214.7 NMOS
XM$29 VSS \$66 \$13 VSS NMOS L=8u W=84u AS=126p AD=126p PS=90u PD=90u
* device instance $30 r0 *1 -654.8,-214.7 NMOS
XM$30 \$13 VIN_P \$15 VSS NMOS L=8u W=672u AS=1008p AD=1008p PS=750u PD=750u
* device instance $32 r0 *1 -632.8,-214.7 NMOS
XM$32 \$13 VIN_N \$11 VSS NMOS L=8u W=672u AS=1008p AD=1008p PS=750u PD=750u
* device instance $37 r0 *1 -577.8,-214.7 NMOS
XM$37 \$11 VSS VSS VSS NMOS L=8u W=84u AS=126p AD=235.2p PS=90u PD=179.2u
* device instance $38 r0 *1 -555.8,-232.2 NMOS
XM$38 VSS VSS \$169 VSS NMOS L=8u W=28u AS=60.2p AD=60.2p PS=59.2u PD=59.2u
* device instance $39 r0 *1 -544.8,-232.2 NMOS
XM$39 \$169 \$12 \$11 VSS NMOS L=8u W=84u AS=126p AD=126p PS=120u PD=120u
* device instance $42 r0 *1 -511.8,-232.2 NMOS
XM$42 \$15 \$12 OUT1 VSS NMOS L=8u W=84u AS=126p AD=126p PS=120u PD=120u
* device instance $64 r0 *1 -258.8,-214.7 NMOS
XM$64 VSS VSS \$15 VSS NMOS L=8u W=84u AS=235.2p AD=126p PS=179.2u PD=90u
* device instance $72 r0 *1 -170.8,-214.7 NMOS
XM$72 \$13 VSS VSS VSS NMOS L=8u W=84u AS=126p AD=235.2p PS=90u PD=179.2u
* device instance $73 r0 *1 -148.8,-232.2 NMOS
XM$73 VSS VSS T_D|iB1 VSS NMOS L=8u W=28u AS=60.2p AD=60.2p PS=59.2u PD=59.2u
* device instance $74 r0 *1 -137.8,-232.2 NMOS
XM$74 T_D|iB1 L_U_G|VB2 \$105 VSS NMOS L=8u W=84u AS=126p AD=126p PS=120u
+ PD=120u
* device instance $75 r0 *1 -126.8,-232.2 NMOS
XM$75 \$105 L_D_G|VB1 VSS VSS NMOS L=8u W=84u AS=126p AD=126p PS=120u PD=120u
* device instance $76 r0 *1 -115.8,-232.2 NMOS
XM$76 VSS \$66 \$66 VSS NMOS L=8u W=84u AS=126p AD=126p PS=120u PD=120u
* device instance $77 r0 *1 -104.8,-232.2 NMOS
XM$77 \$66 \$12 \$12 VSS NMOS L=8u W=84u AS=126p AD=126p PS=120u PD=120u
.ENDS OPAMP_NMOS_single
